US07078425B2
Diisobutylaluminum hydride (1.5 M toluene, 1.4 mL, 2.1 mmol) is added dropwise to a −78° C. solution of 1-benzenesulfonyl-7-methoxy-1H-indole-4-carboxylic acid methyl ester (0.34 g, 0.98 mmol, Santangelo, et. al., Synth. Commun. 1993, 23, 2717–2725) in CH2Cl2 (7 mL). After stirring for 1 h, the solution is diluted with 10% aq. Rochelle's salt (100 mL) and extracted twice with EtOAc (100 mL). The organics are washed with aq. Rochelle's salt and brine. The organics are dried (MgSO4) and concentrated under reduced pressure to provide (1-benzenesulfonyl-7-methoxy-1H-indol-4-yl)-methanol as a crispy foam which is used as is without further purification.

reactant | Diisobutylaluminum hydride | 2.1 mmol, 1.5 M, 1.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1-benzenesulfonyl-7-methoxy-1H-indole-4-carboxylic acid methyl ester | 0.98 mmol, 0.34 g | COC(=O)C=1C=2C=CN(C2C(=CC1)OC)S(=O)(=O)C1=CC=CC=C1 | C17H15NO5S
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | Rochelle's salt | 100 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
product | (1-benzenesulfonyl-7-methoxy-1H-indol-4-yl)-methanol | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC(=C12)OC)CO | C16H15NO4S
